US09034900B2
Step 2: 3-bromo-2-(cyclopropylmethoxy)-5-methylsulfonylpyridine
A solution of cyclopropylmethanol (146 uL, 1.8 mmol) stirred in DMF (3 mL) at 0° C. was treated with NaH (75 mg, 1.9 mmol, 60% in mineral oil). After stirring at 0° C. for 30 min, the reaction mixture was treated with a solution of 3-bromo-2-chloro-5-methylsulfonylpyridine (400 mg, 1.5 mmol) in DMF (3 mL) by dropwise addition. After the ice bath was removed, the mixture was stirred at rt for 14 h. The reaction mixture was treated with water and extracted with EtOAc (30 mL×2). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using a gradient of EtOAc (5 to 85%) in hexanes to give the title compound (298 mg, 65%). LCMS (M+H)+=307.

reactant | cyclopropylmethanol | 1.8 mmol, 146 uL | C1(CC1)CO | C4H8O
reactant | NaH | 1.9 mmol, 75 mg | [H-].[Na+]
reactant | 3-bromo-2-chloro-5-methylsulfonylpyridine | 1.5 mmol, 400 mg | BrC=1C(=NC=C(C1)S(=O)(=O)C)Cl | C6H5BrClNO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-bromo-2-(cyclopropylmethoxy)-5-methylsulfonylpyridine | 298 mg, 65% | BrC=1C(=NC=C(C1)S(=O)(=O)C)OCC1CC1 | C10H12BrNO3S
